US07160881B2
Methyl-[4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3-yl]-amine can be produced by diluting Red-Al in toluene and adding this solution dropwise to a solution of [4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3-yl]-carbamic acid methyl ester in toluene. The yellow solution obtained is stirred at room temperature, cooled to about 0° C., and poured slowly onto a mixture of 4 N aqueous sodium hydroxide and ice (very exothermic). After stirring, the phases are separated, the aqueous phase extracted with tert-butyl-methyl-ether, and the organic phases washed with brine. The combined organic extracts are dried and concentrated under reduced pressure to yield methyl-[4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3-yl]-amine as a brown oil which can be used in the next step without further purification.

reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
reactant | [4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3-yl]-carbamic acid methyl ester | COC(NC=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CCSCC1)=O | C18H20FN3O2S
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl-[4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-pyridin-3-yl]-amine | CNC=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CCSCC1 | C17H20FN3S
